US06265575B1
Part C. N-[4-(6-Methoxybenzo[b]thiophen-2-yl)phenyl]-α-(1-pyrrolidinyl)acetamide
By essentially following the procedures described in Example 1, Part B, the title compound was prepared in 97% yield from N-(4-bromophenyl)-α-(1-pyrrolidinyl)acetamide (Part B) and 6-methoxybenzo[b]thiophene-2-boronic acid (Example 1, Part A).

reactant | N-(4-bromophenyl)-α-(1-pyrrolidinyl)acetamide | BrC1=CC=C(C=C1)NC(CN1CCCC1)=O | C12H15BrN2O
reactant | 6-methoxybenzo[b]thiophene-2-boronic acid | COC=1C=CC2=C(SC(=C2)B(O)O)C1 | C9H9BO3S
product | N-[4-(6-Methoxybenzo[b]thiophen-2-yl)phenyl]-α-(1-pyrrolidinyl)acetamide | 97% yield | COC=1C=CC2=C(SC(=C2)C2=CC=C(C=C2)NC(CN2CCCC2)=O)C1 | C21H22N2O2S
